US04050921
2-(2-Fluorophenylmethylsulfinyl)pyridine N-oxide
The procedure employed is identical to that of Example 68 using 5.7 gm (0.024 mol) 2-(2-fluorophenylmethylthio)pyridine N-oxide in 50 ml of chloroform with 4.8 gm (0.024 mol) MCPBA in 75 ml chloroform.

reactant | 2-(2-fluorophenylmethylthio)pyridine N-oxide | 0.024 mol, 5.7 gm | FC1=C(C=CC=C1)CSC1=[N+](C=CC=C1)[O-] | C12H10FNOS
reactant | MCPBA | 0.024 mol, 4.8 gm | C1=CC(=CC(=C1)Cl)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 75 ml | C(Cl)(Cl)Cl | CHCl3
product | 2-(2-Fluorophenylmethylsulfinyl)pyridine N-oxide | FC1=C(C=CC=C1)CS(=O)C1=[N+](C=CC=C1)[O-] | C12H10FNO2S
